* C:\users\none\Desktop\schematics\LTSpice\switched_psu.asc
V1 Vin 0 SINE(0 120 60)
R1 Vin N003 .01
D1 N003 Vout MBRS340
D2 0 Vout MBRS340
D3 0 N003 MBRS340
D4 0 0 MBRS340
C1 Vout 0 10µF
L1 N006 Vout 100µ
L2 N001 N007 1µ
D5 N001 N002 D
R2 N004 N006 1
D6 N004 Vout D
C3 N004 N006 1µF
C2 N002 N007 1µF
C4 N002 N007 1µF
.model D D
.lib C:\users\none\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 150m startup
K1 L1 L2 1
.backanno
.end
